US04017620
To a mixture of 178 mg. of 7,8-dimethyl-6-phenyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxylic acid 5-oxide, 0.1 ml. of triethylamine and 5 ml. of tetrahydrofuran is added 0.07 ml. of ethyl chlorocarbonate under stirring and cooling on an ice-sodium chloride bath, and the mixture is stirred for 5 minutes. Then, to the mixture is added 0.07 ml. of piperidine, followed by stirring for 30 minutes, and water is added to the resulting mixture. Then, the mixture is extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried over sodium sulfate and then the solvent is evaporated. Thereafter, addition of ether to the residue gives 7,8-dimethyl-6-phenyl-2-piperidinocarbonyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-5-oxide as crystals. Recrystallization from ethyl acetate gives colorless prisms melting at 213° to 214° C.

reactant | 7,8-dimethyl-6-phenyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-2-carboxylic acid 5-oxide | CC1=C(SC2=C1C(=[N+](CC=1N2N=C(N1)C(=O)O)[O-])C1=CC=CC=C1)C | C17H14N4O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7,8-dimethyl-6-phenyl-2-piperidinocarbonyl-4H-thieno[3,2-f]-s-triazolo[1,5-a][1,4]diazepine-5-oxide | CC1=C(SC2=C1C(=[N+](CC=1N2N=C(N1)C(=O)N1CCCCC1)[O-])C1=CC=CC=C1)C | C22H23N5O2S
